US07153848B2
Methyl (5R,6S)-rel-13-cyclohexyl-6,7-dihydro-5,6-dihydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylate
OsO4 (23 mg, 0.09 mmol) was added to a stirred solution of methyl 13-cyclohexyl-7H-indolo{2,1-a][2]benzazepine-10-carboxylate (341 mg, 0.92 mmol) and 4-methyl-morpholine N-oxide(430 mg, 3.68 mmol) in acetone-water (50 mL-6 mL) at rt. The reaction mixture was stirred at rt for 18 hr and then diluted with aqueous sodium thiosulfate. The mixture was extracted with ethyl acetate. The organic layer was washed with brine (3×) and dried over sodium sulfate, filtered and evaporated under reduced pressure. The crude product was purified utilizing a Biotage apparatus with a prepacked silica column and using gradients of hexanes:ethyl acetate of from (98:2) to (80:20) to afford the product as a light yellow solid (340 mg, 91%). ESI-MS m/z 406 (MH+); 1H NMR (500 MHz, MeOD) δ 1.25 (m, 1 H) 1.43 (m, 2 H) 1.58 (d, J=13.12 Hz, 1 H) 1.77 (d, J=8.85 Hz, 2 H) 2.02 (m, 4 H) 2.93 (m, 1 H) 3.31 (m, 1 H) 3.93 (s, 3 H) 4.40. (d, J=4.58 Hz, 1 H) 4.52 (m, 1 H) 4.68 (dd, J=14.19, 7.17 Hz, 1 H) 7.40 (t, J=7.32 Hz, 1 H) 7.44 (t, J=7.32 Hz, 1 H) 7.51 (t, J=7.48 Hz, 1 H) 7.70 (d, J=8.55 Hz, 1 H) 7.78 (d, J=7.63 Hz, 1 H) 7.86 (d, J=8.55 Hz, 1 H) 8.15 (s, 1 H).

reactant | methyl 13-cyclohexyl-7H-indolo{2,1-a][2]benzazepine-10-carboxylate | 0.92 mmol, 341 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=CC2)C=CC=C1)C(=O)OC | C25H25NO2
reactant | 4-methyl-morpholine N-oxide | 3.68 mmol, 430 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | acetone water | 50 mL-6 mL | CC(=O)C.O
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
catalyst | OsO4 | 0.09 mmol, 23 mg | O=[Os](=O)(=O)=O
product | Methyl (5R,6S)-rel-13-cyclohexyl-6,7-dihydro-5,6-dihydroxy-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | 340 mg, 91% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C([C@H]([C@H](C2)O)O)C=CC=C1)C(=O)OC | C25H27NO4
